US07863271B2
Following general procedure GP-C2, lithium 2-(diethylamino)benzoxazole-4-carboxylate and (S)-(−)-3-aminoquinuclidine dihydrochloride were coupled to provide (S)—N-(quinuclidine-8-yl)-2-diethylaminobenzoxazole-4-carboxamide, which was converted to the hydrochloride salt following general procedure GP-D1. 1H NMR and MS consistent.

reactant | lithium 2-(diethylamino)benzoxazole-4-carboxylate | C(C)N(C=1OC=2C(N1)=C(C=CC2)C(=O)[O-])CC.[Li+]
reactant | (S)-(−)-3-aminoquinuclidine dihydrochloride | Cl.Cl.N[C@@H]1CN2CCC1CC2
product | (S)—N-(quinuclidine-8-yl)-2-diethylaminobenzoxazole-4-carboxamide | N12CCC(CC1)[C@@H](C2)NC(=O)C=2C=CC=C1C2N=C(O1)N(CC)CC | C19H26N4O2
